US07238808B2
3-[5-(4-Chloro-3-methyl-phenyl)-7-difluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide
The title compound was prepared from 5-(4-chloro-3-methyl-phenyl)-7-difluoromethyl-3-ethynyl-pyrazolo[1,5-a]pyrimidine (example C.16) (159 mg, 0.5 mmol) and commercially available 3-bromo-benzenesulfonamide (118 mg, 0.5 mmol) according to general procedure II. Obtained as a yellow solid (140 mg, 59%). MS (ISP) 473.2 [(M+H)+]; mp 215° C.

reactant | 5-(4-chloro-3-methyl-phenyl)-7-difluoromethyl-3-ethynyl-pyrazolo[1,5-a]pyrimidine | 0.5 mmol, 159 mg | ClC1=C(C=C(C=C1)C1=NC=2N(C(=C1)C(F)F)N=CC2C#C)C | C16H10ClF2N3
reactant | 3-bromo-benzenesulfonamide | 0.5 mmol, 118 mg | BrC=1C=C(C=CC1)S(=O)(=O)N | C6H6BrNO2S
product | 3-[5-(4-Chloro-3-methyl-phenyl)-7-difluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide | ClC1=C(C=C(C=C1)C1=NC=2N(C(=C1)C(F)F)N=CC2C#CC=2C=C(C=CC2)S(=O)(=O)N)C | C22H15ClF2N4O2S
